US09376422B2
Step 2: Synthesis of methyl 2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzoate
To a stirred solution of methyl 5-(azetidin-3-yl)-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate (320 mg, 1.01 mmol) in DCE (10 ml) under a nitrogen atmosphere was added paraformaldehyde (151 mg, 5.03 mmol) followed by acetic acid (0.115 ml, 2.01 mmol) and the reaction was left to stir for 5 min before the addition of sodium triacetoxyborohydride (852 mg, 4.02 mmol). The reaction was stirred for 16 h at room temperature after which time additional paraformaldehyde (21 mg) and sodium triacetoxyborohydride (98 mg) was added and the reaction was stirred for a further 4 h whereupon distilled water (20 ml) was added and solid NaHCO3 was added until the aqueous phase was pH7. The phases were separated, the aqueous phase was washed with DCM (3×20 ml), the combined organic phases were then washed with brine (50 ml), dried using MgSO4, filtered and evaporated to afford the title compound as an oil (296 mg, 89%). LC-MS 100%, m/z=333.1, 1H NMR (500 MHz, Chloroform-d) δ 7.42 (d, J=1.4 Hz, 1H), 7.09 (s, 1H), 3.96 (d, J=11.2 Hz, 2H), 3.92-3.82 (m, 5H), 3.74 (d, J=7.2 Hz, 1H), 3.30 (dt, J=22.2, 15.0 Hz, 4H), 3.00-2.89 (m, 1H), 2.62 (s, 3H), 2.49-2.39 (m, 6H), 1.75-1.59 (m, 4H).

reactant | methyl 5-(azetidin-3-yl)-2-methyl-3-[methyl(oxan-4-yl)amino]benzoate | 1.01 mmol, 320 mg | N1CC(C1)C=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)C | C18H26N2O3
reactant | paraformaldehyde | 5.03 mmol, 151 mg | C=O | CH2O
reactant | acetic acid | 2.01 mmol, 0.115 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.02 mmol, 852 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | paraformaldehyde | 21 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 10 ml | ClCCCl | C2H4Cl2
product | methyl 2-methyl-3-[methyl(oxan-4-yl)amino]-5-(1-methylazetidin-3-yl)benzoate | 296 mg, 89% | CC1=C(C(=O)OC)C=C(C=C1N(C1CCOCC1)C)C1CN(C1)C | C19H28N2O3
